US06649230B1
11.4 g (45.4 mmol) 11-bromo-1-undecanol, 11.0 g (47.7 mmol) 3,5-dinitrobenzoyl chloride, 54 mg 4-dimethylaminopyridine were dissolved in 94 ml dichloromethane. The solution was subsequently cooled to 0° C. and then 18.3 ml (227 mmol) Pyridine was added dropwise, in the course of 25 minutes. After 4.5 hours at 0° C. the reaction mixture was partitioned between dichloromethane and water; the organic phase was washed repeatedly with water, dried over sodium sulfate, filtered and concentrated by rotary evaporation. Chromatography of the residue on 200 g silica gel using Toluene yielded 18.1 g (90%) 3,5-Dinitrobenzoic acid 11-bromoundecyl ester as yellow powder.

reactant | 11-bromo-1-undecanol | 45.4 mmol, 11.4 g | BrCCCCCCCCCCCO | C11H23BrO
reactant | 3,5-dinitrobenzoyl chloride | 47.7 mmol, 11.0 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=C(C1)[N+](=O)[O-] | C7H3ClN2O5
reactant | Pyridine | 227 mmol, 18.3 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 54 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 94 ml | ClCCl | CH2Cl2
product | 3,5-Dinitrobenzoic acid 11-bromoundecyl ester | 18.1 g, 90% | BrCCCCCCCCCCCOC(C1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])=O | C18H25BrN2O6
